US04044151
N,N-Dimethyl-N'-(4-glycylphenyl)sulfamide Hydrochloride
N-[4-(Bromoacetyl)phenyl]-N', N'-dimethylsulfamide (32 g., 0.10 mole) is added dropwise to a chloroform solution of hexamethylenetetramine (21.0 g., 0.15 mole) and the mixture is stirred overnight to give 42.6 g. of the complex. This is hydrolyzed by heating 0.5 hr. with 40 ml. conc. HCl and 500 ml. abs. ethanol. The mixture is cooled and the insoluble ammonium chloride is removed. The solution is concentrated in vacuo and the residue is triturated with isopropanol to give 27.3 g. of intermediate which is washed with water and recrystallized from methanol-isopropyl ether, m.p. 159-159.5° C. (dec.)

reactant | N-[4-(Bromoacetyl)phenyl]-N', N'-dimethylsulfamide | 0.10 mole, 32 g | BrCC(=O)C1=CC=C(C=C1)NS(=O)(=O)N(C)C | C10H13BrN2O3S
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | hexamethylenetetramine | 0.15 mole, 21.0 g | C1N2CN3CN1CN(C2)C3 | C6H12N4
reactant | HCl | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
product | N,N-Dimethyl-N'-(4-glycylphenyl)sulfamide Hydrochloride | Cl.CN(S(=O)(=O)NC1=CC=C(C=C1)C(CN)=O)C | InChI=1S/C10H15N3O3S.ClH/c1-13(2)17(15,16)12-9-5-3-8(4-6-9)10(14)7-11;/h3-6,12H,7,11H2,1-2H3;1H
